US06004724
60 g of KOH are dissolved in 300 ml of methanol and heated up to 55° C. To the solution are added 32.2 g (0.27 mol) of phenylacetonitrile followed by 30.8 g (0.25 mol) of nitrobenzene. The reaction mixture is stirred at 55° C. for 4 hrs. After cooling, 400 ml of water are added with stirring. The resulting solution is acidified by addition of 110 ml of acetic acid in 100 ml of water, leading to a yellow-orange precipitate. The mixture is then filtered, and the yellow solid is washed with a mixture of methanol and water. The crude product is dried in air, boiled with 150 ml of benzene for 15 min., cooled, filtered and dried under vacuum. 42.6 g (77%) of (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile are obtained in the form of a yellow solid having a melting point of 159-163° C. (dec.).

reactant | KOH | 60 g | [OH-].[K+]
reactant | phenylacetonitrile | 0.27 mol, 32.2 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | nitrobenzene | 0.25 mol, 30.8 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile | 42.6 g, 77% | ON=C1C=CC(C=C1)=C(C#N)C1=CC=CC=C1 | C14H10N2O
